US04000153
In the manner given in Example 5, 2'-chloro-5-(trifluoromethyl)-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone is treated with phosphorus tribromide in chloroform to give 2'-chloro-5-(trifluoromethyl)-2-[3-(bromomethyl)-5-methyl-4H-1,2,4-triazol-4-yl] -benzophenone.

reactant | 2'-chloro-5-(trifluoromethyl)-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)C(F)(F)F)N1C(=NN=C1C)CO)=O | C18H13ClF3N3O2
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2'-chloro-5-(trifluoromethyl)-2-[3-(bromomethyl)-5-methyl-4H-1,2,4-triazol-4-yl] -benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)C(F)(F)F)N1C(=NN=C1C)CBr)=O | C18H12BrClF3N3O
